US07282588B2
4-bromo-1-{[4-(methyloxy)phenyl]methyl}-3-(4-nitrophenyl)-1H-pyrazole
Following the procedure described for Intermediate 3 with 4-bromo-3-(4-nitrophenyl)-1H-pyrazole and p-methoxybenzylchloride provided the title product. ESMS [M+H]+: 388.2

reactant | 4-bromo-3-(4-nitrophenyl)-1H-pyrazole | BrC=1C(=NNC1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H6BrN3O2
reactant | p-methoxybenzylchloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 4-bromo-1-{[4-(methyloxy)phenyl]methyl}-3-(4-nitrophenyl)-1H-pyrazole | BrC=1C(=NN(C1)CC1=CC=C(C=C1)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C17H14BrN3O3
